Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hallucinations, agitation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI(4): Mr. ___ is a ___ male with the past medical 
history of ETOH abuse coming from OSH w/ concern for AWS. Per
wife, pt was trying to detox at home with Ativan. Last drink was
3am on ___. Wife found patient hallucinating, paranoid. Pt
was wandering in circles around the house. Pt had also had an
unwitnessed fall. Brought to OSH. Was tachycardic to 102, RR 22,
BP 132/86. Received ativan 22mg enroute to ___, stopped by EMS
for respiratory depression. Here pt is sleepy and confused.
States he has fallen but otherwise unable to give HPI. His wife
an RN reports likely has cirrhosis, has history of low platelets
(~50). BAC = 152
He was hospitalized for a work injury in ___ where he was given
ativan for withdrawal characterized by shakes and tremors only.
He did not have confusion, difficulty recognizing his wife nor
hallucinations like he has now. 
At ___ he was given D5/folic acid 1 mg/ thiamine 500 mg IV
/MVT in addition to ativan
? if he had a fever since he has had intermittent sweats.+
Tingling in L arm last week. No diarrhea. No chest pain or
shortness of breath. He has not had any weight loss.
He always has tremors when he stops drinkiing.
No hospitalization for ETOh w/d. 

Limited ROS obtained with the help of his wife since he is 
unable
to give a history. 

In the ED VS on presentation: 
0 |98.4 |84 |132/67 |16 |98% RA 
Given:
Thiamine/MVT/Folic acid/IVF x 3L/phenobarbital 260  mg/ 

 
Past Medical History:
Cirrohsis - his wife believes
Recent treatment for cellulitis - ___
GERD 
H/o GIB ___
 
Social History:
___
Family History:
His father died of lung cancer. 
 
Physical Exam:
ADMISSION:
==========
VITALS:98.2PO 135 / 89 83 18 99 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with poor air movement
bilaterally secondary to poor effort.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to self only, face largely symmetric but
question L facial droop, uable to follow my finger to assess
nystagmus because of drowsiness. 
No pronator drift
Mild asterixis b/l
He thinks that he is in a ___ facility.
He thinks today is ___.
Intermittently falling asleep during the encounter.
He is able to obey commands.
PSYCH: somnolent but can occasionally say appropriate sentences
During code purple: "Get the F--K off me"

DISCHARGE:
==========
VS Temp: 98.3 PO BP: 132/78 L Lying HR: 98 RR: 18 O2
sat: 100% O2 delivery: Ra 
GENERAL: Sitting in chair eating breakfast, mildly disheveled,
but no acute distress.
HEENT: PERRL, anicteric sclerae, abrasion over R forehead, OP
clear, no tongue fasciculations.
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, NT, ND, no rebound/guarding, no clear HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: Abrasion over R forehead as above
NEURO: AOx3, following commands, CN II-XII intact, ___ strength
in all extremities, sensation grossly intact throughout, gait
testing deferred, no tremor
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION:
==========
___ 05:43PM BLOOD WBC-2.9* RBC-4.07* Hgb-10.8* Hct-36.3* 
MCV-89 MCH-26.5 MCHC-29.8* RDW-17.0* RDWSD-55.1* Plt Ct-50*
___ 05:43PM BLOOD Neuts-53.9 ___ Monos-18.4* 
Eos-5.6 Baso-1.0 Im ___ AbsNeut-1.55* AbsLymp-0.60* 
AbsMono-0.53 AbsEos-0.16 AbsBaso-0.03
___ 05:43PM BLOOD Glucose-85 UreaN-7 Creat-0.7 Na-141 K-4.7 
Cl-107 HCO3-19* AnGap-15
___ 05:43PM BLOOD ALT-18 AST-62* AlkPhos-78 TotBili-1.3
___ 05:43PM BLOOD Lipase-34
___ 05:43PM BLOOD Albumin-3.9 Calcium-9.2 Phos-3.2 Mg-2.0
___ 08:54AM BLOOD calTIBC-352 VitB12-1209* Folate-16 
Ferritn-55 TRF-271
___ 05:43PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:38AM BLOOD ___ pO2-198* pCO2-39 pH-7.40 
calTCO2-25 Base XS-0 Intubat-NOT INTUBA Comment-GREEN TOP
___ 04:38AM BLOOD Lactate-1.2
___ 04:38AM BLOOD freeCa-1.14

DISCHARGE:
==========
___ 06:45AM BLOOD WBC-3.1* RBC-3.96* Hgb-10.2* Hct-34.2* 
MCV-86 MCH-25.8* MCHC-29.8* RDW-16.9* RDWSD-54.0* Plt Ct-55*
___ 07:50AM BLOOD UreaN-9 Creat-0.8 Na-138 K-3.7 Cl-101 
HCO3-25 AnGap-12

IMAGING:
========
NCHCT (OSH):
No acute intracranial findings
R supra-orbital scalp laceration and soft tissue swelling 

 
Brief Hospital Course:
___ with hx of EtOH abuse previously treated with vivitrol who 
presented with severe alcohol withdrawal syndrome consistent 
with delirium tremens requiring IV phenobarbital, now through 
acute window of withdrawal, HD stable and back to mental 
baseline (AOx3). He is now medically stable for discharge with 
plan to immediately self enroll into rehab. Of note, noted to 
have stable pancytopenia (no bleeding, no neutropenia) that is 
consistent with alcoholic marrow toxicity. 

TRANSITIONAL ISSUES: 
====================
[ ] following discharge from rehab, recommend PCP follow up to 
repeat CBC for stability.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO Q6H:PRN etoh w/d 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Multivitamins 1 TAB PO DAILY  
3.  Omeprazole 20 mg PO DAILY  
4. HELD- LORazepam 1 mg PO Q6H:PRN etoh w/d  This medication was 
held. Do not restart LORazepam until discussed at rehab. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ETOH withdrawal with delirium tremens
Pancytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with serious alcohol 
withdrawal and were treated with a medicine called phenobarbital 
with improvement.

It will be critically important to stop drinking alcohol 
entirely and we fully support your decision to continue your 
recovery at rehab. 

With best wishes for a speedy recovery,
___ Medicine
 
Followup Instructions:
___